US07700634B2
To a suspension of 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid (5 g, 17.4 mmol) in dichloromethane (100 ml) was added oxalyl chloride (3.04 ml, 34.8 mmol) and the resulting solution stirred overnight. Excess solvent and reagent were then removed by evaporation. To the resulting residue was added copper (I) cyanide (6.2 g, 69.6 mmol), toluene (200 ml) and acetonitrile (10 ml) and the resulting reaction mixture heated at reflux for 7 hours. A further portion of copper (I) cyanide (1.6 g, 17.9 mmol) was then added and the reaction mixture heated at reflux overnight. The reaction mixture was cooled and filtered through a pad of dicalite. The dicalite was washed with acetonitrile and the combined filtrate evaporated to leave a red solid. The solid was purified by flash column chromatography eluting with 50% (v/v) dichloromethane in heptane to afford (1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-oxoacetonitrile (4.7 g, 14.7 mmol).

reactant | 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid | 17.4 mmol, 5 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)O | C17H21NO3
reactant | oxalyl chloride | 34.8 mmol, 3.04 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | copper (I) cyanide | 69.6 mmol, 6.2 g | [Cu]C#N
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | copper (I) cyanide | 17.9 mmol, 1.6 g | [Cu]C#N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-oxoacetonitrile | 14.7 mmol, 4.7 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(C#N)=O | C18H20N2O2
